US06291485B1
A. Synthesis of 3-ethoxy-α-(2-chlorophenyl)benzyl alcohol
To an ether solution of 3-ethoxyphenylmagnesium bromide [prepared from 3-ethoxybromobenzene (6 g, 30 m mol), magnesium (0.8 g, 33 m mol) and ether (30 ml)], an ether solution (30 ml) of 2-chlorobenzaldehyde (2.8 g, 20 m mol) was added dropwise with stirring and under cooling with ice. After 30 minutes, 1 N hydrochloric acid (50 ml) was added thereto. The ether layer was separated and the aqueous layer was extracted with ether (20 ml). After the combined ether layer was washed with a saturated aqueous solution of sodium chloride (15 ml) and dried, the solvent was distilled off under reduced pressure. The resulting residue was subjected to chromatography on silica gel (60 g) using hexane-ethyl acetate (5:1). The resulting fraction containing the desired compound was distilled to obtain the desired compound (3.4 g, 64%) as a colorless oily material (178-179° C./1 mmHg).

reactant | 3-ethoxyphenylmagnesium bromide | 30 ml, 6 g | C(C)OC=1C=C(C=CC1)[Mg]Br
reactant | 2-chlorobenzaldehyde | 2.8 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
product | 3-ethoxy-α-(2-chlorophenyl)benzyl alcohol | 3.4 g, 64% | C(C)OC=1C=C(C(C2=C(C=CC=C2)Cl)O)C=CC1 | C15H15ClO2
